US07585875B2
Synthesis of 1-(2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one
1-(4-fluorophenyl)-2-(5-(trifluoromethyl)pyridin-2-yl)ethanone oxime. To a solution of 1-(4-fluorophenyl)-2-(5-(trifluoromethyl)pyridin-2-yl)ethanone (8.00 g, 28.2 mmol) in methanol (100 ml) at room temperature was added 15% NaOH (29 ml, 109 mmol). The resulting solution was stirred vigorously as solid hydroxylamine hydrochloride (9.8 g, 140 mmol) was added portionwise. The mixture was heated to reflux for 1 hour, treated with charcoal while hot, and then quickly filtered through Celite before being allowed to cool. The filtrate was concentrated to one-half of its original volume and then cooled to 0° C. for 1 hour. The resultant solids were collected by filtration, washed with water, and dried under vacuum at 50° C. overnight to provide 5.00 g (59%) of the title compound as a dark yellow solid.

reactant | 1-(4-fluorophenyl)-2-(5-(trifluoromethyl)pyridin-2-yl)ethanone oxime | FC1=CC=C(C=C1)C(CC1=NC=C(C=C1)C(F)(F)F)=NO | C14H10F4N2O
reactant | 1-(4-fluorophenyl)-2-(5-(trifluoromethyl)pyridin-2-yl)ethanone | 28.2 mmol, 8.00 g | FC1=CC=C(C=C1)C(CC1=NC=C(C=C1)C(F)(F)F)=O | C14H9F4NO
reactant | NaOH | 109 mmol, 29 ml | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 140 mmol, 9.8 g | Cl.NO
reactant | charcoal | C | CH4
solvent | methanol | 100 ml | CO | CH4O
product | 1-(2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one | 5.00 g, 59% | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C(C(C)C)=O | C18H14F4N2O
